US06962914B2
f) (2E)-3-(Dimethylamino)-1-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propen-1-one.
A mixture of 1-[2-(4-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (11.85 g), 36.77 mmol) and N,N-dimethylformamide dimethyl acetal (100 mL) was stirred at reflux for 17 hours. The mixture was cooled to room temperature and then to 0° C. The resulting orange precipitate was collected by filtration, washed with cold hexanes, and dried under vacuum to afford the title compound as an orange solid, 10.17 g (73%). 1H NMR (DMSO-d6): δ 9.44 (s, 1H), 8.22 (d, 1H, J=9.4 Hz), 7.75 (m, 2H), 7.65 (d, 1H, J=9.5 Hz), 7.56 (d, 1H, J=12.4 Hz), 7.35 (m, 2H), 5.05 (d, 1H, J=12.3 Hz), 3.04 (s, 3H), 2.56 (s, 3H). MS (+ve ion electrospray) 377 (80), (M+).

reactant | 1-[2-(4-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 11.85 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C)=O | C16H10F4N2O
reactant | N,N-dimethylformamide dimethyl acetal | 100 mL | COC(N(C)C)OC | C5H13NO2
product | (2E)-3-(Dimethylamino)-1-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propen-1-one | CN(/C=C/C(=O)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F)C | C19H15F4N3O
